US04451462
20 g of 2-(4-dibenzylamino-2-hydroxy-5-methylphenyl)-propionic acid dibenzamide are heated under reflux for 3 hours in 40 ml of 2 N hydrochloric acid and 40 ml of glacial acetic acid. Subsequently, the mixture is concentrated to dryness by evaporation in vacuo and the residue is partitioned between ether and 1 N sodium hydroxide solution. Acidification to a pH of 1 with hydrochloric acid and extraction with ether yields 2-[4-dibenzylamino-2-hydroxy-5-methylphenyl]-propionic acid, which for purification is chromatographed over silica gel with methylene chloride. The colourless crystals melt at 174°-175° C. 5 g of the crystals are dissolved in 50 ml of ether and 6 g of dicyclohexylcarbodiimide are added. After 30 minutes, the urea that has formed is filtered off and the filtrate is concentrated to dryness by evaporation. In this manner 6-dibenzylamino-3,5-dimethyl-benzofuran-2(3H)-one having a melting point of 122°-123° C. is obtained.

reactant | 2-(4-dibenzylamino-2-hydroxy-5-methylphenyl)-propionic acid dibenzamide | 20 g | C1=CC=CC=C1C(=O)NC(=O)C1=CC=CC=C1.C(C1=CC=CC=C1)N(C1=CC(=C(C=C1C)C(C(=O)O)C)O)CC1=CC=CC=C1
solvent | hydrochloric acid | 2 N, 40 ml | Cl | ClH
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 2-[4-dibenzylamino-2-hydroxy-5-methylphenyl]-propionic acid | C(C1=CC=CC=C1)N(C1=CC(=C(C=C1C)C(C(=O)O)C)O)CC1=CC=CC=C1 | C24H25NO3
